US09428470B2
I) tert-Butyl 4-(4-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)piperidin-1-yl)-4-oxobutanoate
A mixture of tert-butyl 4-(4-(4-(benzyloxy)-2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl)-3,6-dihydropyridin-1(2H)-yl)-4-oxobutanoate (52.1 mg), 10% Pd/C (containing about 55% water, 20 mg), and THF (1 mL) was stirred at room temperature for 6 hours in a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (35.0 mg).

reactant | tert-butyl 4-(4-(4-(benzyloxy)-2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl)-3,6-dihydropyridin-1(2H)-yl)-4-oxobutanoate | 52.1 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1CCN(CC1)C(CCC(=O)OC(C)(C)C)=O)C1=NOC(C1)(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C | C41H54N2O9
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)piperidin-1-yl)-4-oxobutanoate | 35.0 mg | C(C)(C)(C)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)C1CCN(CC1)C(CCC(=O)OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O | C34H50N2O9
